US06197990B1
Sodium hydride (containing mineral oil; the content of sodium hydride: 60%) (0.80 g) and aniline (0.046 g) were added to the solution of trimethylcyclopentadiene (1.08 g) dissolved in tetrahydrofuran (6.12 g), and stirred at 50° C. for 3 hours. Thus, trimethylcyclopentadienylsodium was obtained in the form of a solution in tetrahydrofuran.

reactant | Sodium hydride | [H-].[Na+]
reactant | aniline | 0.046 g | NC1=CC=CC=C1 | C6H7N
reactant | trimethylcyclopentadiene | 1.08 g | CC=1C(=C(CC1)C)C | C8H12
solvent | tetrahydrofuran | 6.12 g | O1CCCC1 | C4H8O
product | trimethylcyclopentadienylsodium | CC1=C(C(C=C1)([Na])C)C | InChI=1S/C8H11.Na/c1-6-4-5-7(2)8(6)3;/h4-5H,1-3H3;
